US06015868
Preparation of (2-methylindenyl)(t-butylamino)dimethylsilane
Chloro(t-butylamino)dimethylsilane (9.57 g, 0.058 moles) was stirred in diethylether (150 mL) at 0° C. as lithium-2-methylindenide (7.68 g, 0.058 moles) was added as a solid over a 15 minute period of time. The mixture was then allowed to stir for 16 hours at room temperature. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. Removal of the volatiles resulted in the isolation of the desired product as a pale yellow oil (9.99 g, 67.5 percent).

reactant | Chloro(t-butylamino)dimethylsilane | 0.058 moles, 9.57 g | Cl[Si](C)(C)NC(C)(C)C | C6H16ClNSi
reactant | lithium 2-methylindenide | 0.058 moles, 7.68 g | [Li].CC=1[CH-]C2=CC=CC=C2C1
solvent | diethylether | 150 mL | C(C)OCC | C4H10O
product | (2-methylindenyl)(t-butylamino)dimethylsilane | 9.99 g, 67.5 percent | CC=1C(C2=CC=CC=C2C1)[Si](C)(C)NC(C)(C)C | C16H25NSi
